US07196202B2
N-(3-Methoxypropyl)-6-[[1-(4-methylphenyl)-2(-phenylmethanesulfonyl)-1H-benzimidazol-6-yl]oxy]hexanamide
100 mg of 6-[[1-(4-methylphenyl)-2-(phenylmethanesulfonyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester was reacted with 3-methoxypropylamine according to general operating instructions 4. 22 mg was obtained.

reactant | 6-[[1-(4-methylphenyl)-2-(phenylmethanesulfonyl)-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | 100 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)S(=O)(=O)CC2=CC=CC=C2)C2=CC=C(C=C2)C)C1)=O | C28H30N2O5S
reactant | 3-methoxypropylamine | COCCCN | C4H11NO
product | N-(3-Methoxypropyl)-6-[[1-(4-methylphenyl)-2(-phenylmethanesulfonyl)-1H-benzimidazol-6-yl]oxy]hexanamide | COCCCNC(CCCCCOC=1C=CC2=C(N(C(=N2)S(=O)(=O)CC2=CC=CC=C2)C2=CC=C(C=C2)C)C1)=O | C31H37N3O5S
